US07067517B2
4,4-Dimethyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ol
Under a nitrogen atmosphere lithium aluminium hydride (1.90 g, 50.0 mmol) was added portionwise to a stirred suspension of 6′-methoxy-4,4-dimethyl-4,5-dihydro-3H-[1,3′]bipyridinyl-2,6-dione (2.85 g, 10.0 mmol) in dry diethyl ether (100 mL). After stirring for 3 hours at room temperature, water (1.90 mL), 15% aqueous sodium hydroxide (1.90 mL) and water (5.70 mL) were added respectively. After stirring for 1 hour at room temperature the salts were removed by filtration and washed three times with diethyl ether. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, dichloromethane followed by ethyl acetate/heptane 25/75) yielding the title compound (1.28 g, 58% yield) as a yellow oil.

reactant | lithium aluminium hydride | 50.0 mmol, 1.90 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6′-methoxy-4,4-dimethyl-4,5-dihydro-3H-[1,3′]bipyridinyl-2,6-dione | 10.0 mmol, 2.85 g | COC1=CC=C(C=N1)N1C(CC(CC1=O)(C)C)=O | C13H16N2O3
reactant | water | 1.90 mL | O | H2O
reactant | sodium hydroxide | 1.90 mL | [OH-].[Na+]
reactant | water | 5.70 mL | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 4,4-Dimethyl-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ol | 1.28 g, 58% yield | CC1(CCN(CC1)C=1C=NC(=CC1)O)C | C12H18N2O
